US08283353B2
ethyl [(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate
To a solution of 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (3.3 g) and rhodium acetate (dimer, 0.075 g) in methylene chloride (15 mL) was added dropwise a solution of ethyl diazoacetate (3.1 mL) in methylene chloride (5 mL), and the mixture was stirred for 3 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (2.1 g, 53%).

reactant | 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 3.3 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CC2)[C@@H]2CC[C@H](CC2)O)=O)C=2C(=CC=CC2)C#N | C29H29FN4O2
reactant | ethyl diazoacetate | 3.1 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | rhodium acetate | 0.075 g | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | ethyl [(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 2.1 g, 53% | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CC2)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O)F | C33H35FN4O4
